US07960369B2
2′,6′-diethylbiphenyl-3-carbaldehyde
A mixture of 1,3-diethyl-2-bromobenzene (3.87 g, 18.2 mmol), 3-formylphenylboronic acid (3.0 g, 20.0 mmol), tetrakistriphenylphosphinepalladium (0.84 g, 0.73 mmol), sodium carbonate (5.79 g, 54.6 mmol), water (20 mL), ethanol (20 mL) and toluene (200 mL) was heated under reflux overnight under an argon atmosphere. The reaction mixture was cooled, diluted with ethyl acetate, washed with water, dried, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-hexane/ethyl acetate=5/1) to give the title compound (3.48 g, yield 81%) as a yellow oil.

reactant | 1,3-diethyl-2-bromobenzene | 18.2 mmol, 3.87 g | C(C)C1=C(C(=CC=C1)CC)Br | C10H13Br
reactant | 3-formylphenylboronic acid | 20.0 mmol, 3.0 g | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | sodium carbonate | 54.6 mmol, 5.79 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 20 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakistriphenylphosphinepalladium | 0.73 mmol, 0.84 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2′,6′-diethylbiphenyl-3-carbaldehyde | 3.48 g, yield 81% | C(C)C1=C(C(=CC=C1)CC)C1=CC(=CC=C1)C=O | C17H18O
